US04515962
Allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-benzylimide
102 g of allyl-bicyclo[2.2.1]-hept-5-ene-2,3-dicarboxylic acid anhydride and 85.6 g of benzylamine are boiled under reflux for 2 hours. Water and excess benzylamine are then distilled off (39 ml at 105° C. under 4,132 Pa).

reactant | allyl-bicyclo[2.2.1]-hept-5-ene-2,3-dicarboxylic acid anhydride | 102 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | benzylamine | 85.6 g | C(C1=CC=CC=C1)N | C7H9N
product | Allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-benzylimide | C(C1=CC=CC=C1)N=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C | C19H21NO3
